US04362880
(b) (E)-Methyl-2-carbomethoxy-5-chloro- 3-chloromethyl-2,4-pentadienoate
Titanium tetrachloride (0.1 dm3, 0.9 mole) in carbon tetrachloride (0.1 dm3) was added to stirred tetrahydrofuran (0.25 dm3) at 0° over 5 minutes. To the yellow solution a premix of 1,4-dichloro-3-buten-2-one (0.0556 kg, 0.4 mole) and dimethyl malonate (0.0528 kg, 0.4 mole) in tetrahydrofuran (0.2 dm3) was added dropwise over 10 minutes maintaining the temperature at 0°. A solution of pyridine (0.13 dm3, 1.6 moles) in tetrahydrofuran (0.1 dm3) was added to the above brown mixture dropwise over 30 minutes at 0° and the resultant mixture stirred at ambient temperature for three hours and then treated with water (1 dm3). The mixture was separated, the aqueous phase re-extracted with dichloromethane (2×0.25 dm3) and the combined organic extract washed with brine (2×0.1 dm3) and then dried over magnesium sulphate (0.10 kg). Filtration and evaporation of the filtrate under reduced pressure gave a red oil which crystallised on standing. Yield 0.064 kg (63.3%), m.p. 56°.

reactant | 1,4-dichloro-3-buten-2-one | 0.4 mole, 0.0556 kg | ClCC(C=CCl)=O | C4H4Cl2O
reactant | dimethyl malonate | 0.4 mole, 0.0528 kg | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | pyridine | 1.6 moles, 0.13 dm3 | N1=CC=CC=C1 | C5H5N
reactant | water | 1 dm3 | O | H2O
solvent | carbon tetrachloride | 0.1 dm3 | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | tetrahydrofuran | 0.2 dm3 | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.1 dm3 | O1CCCC1 | C4H8O
catalyst | Titanium tetrachloride | 0.9 mole, 0.1 dm3 | [Ti](Cl)(Cl)(Cl)Cl
solvent | tetrahydrofuran | 0.25 dm3 | O1CCCC1 | C4H8O
product | (E)-Methyl-2-carbomethoxy-5-chloro- 3-chloromethyl-2,4-pentadienoate | COC(C(=C(\C=C\Cl)CCl)C(=O)OC)=O | C9H10Cl2O4
